US04556711
5-(4-Aminophenyl)-3-methyl-2(1H)-pyrazinone hydrobromide
5-(4-Benzyloxycarbonylaminophenyl)-3-methyl-2(1H)pyrazinone (1.5 g) was treated with hydrogen bromide in acetic acid in a manner similar to that described in Example 20 to give the title compound as its hydrobromide salt (1.09 g) which on recrystallisation from ethanol/ether had m.p.>300° C.; ν(Nujol mull) 1632, 1640 cm-1.

reactant | 5-(4-Benzyloxycarbonylaminophenyl)-3-methyl-2(1H)pyrazinone | 1.5 g | C(C1=CC=CC=C1)OC(=O)NC1=CC=C(C=C1)C=1N=C(C(NC1)=O)C | C19H17N3O3
reactant | hydrogen bromide | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-(4-Aminophenyl)-3-methyl-2(1H)-pyrazinone hydrobromide | Br.NC1=CC=C(C=C1)C=1N=C(C(NC1)=O)C | InChI=1S/C11H11N3O.BrH/c1-7-11(15)13-6-10(14-7)8-2-4-9(12)5-3-8;/h2-6H,12H2,1H3,(H,13,15);1H
